US06228888B1
Di-tert-butyl 2-[[[2-(carboxy)propyl]tert-butoxy-phosphinyl]methyl]pentanedioate
A solution of di-tert-butyl 2-[[[2-(benzyl-carboxy)propyl]tert-butoxyphosphinyl]methyl]pentane-1,5-dioate (8.9 g, 16.1 mmol), palladium on carbon catalyst (10%, 1.0 g) and ethyl acetate (100 ml) was shaken under hydrogen (60 psi) for 16 hours. The reaction mixture was filtered over celite and the filtrate was concentrated under reduced pressure leaving a clear oil (7.5 g, 100%). 1H NMR (CDCl3) δ 1.3 (d, 3H), 1.4-1.5 (m, 27H), 1.8 (m, 2H), 1.9 (m, 2H), 2.2 (m, 4H), 2.7 (m, 1H), 2.9 (m, 1H).

reactant | di-tert-butyl 2-[[[2-(benzyl-carboxy)propyl]tert-butoxyphosphinyl]methyl]pentane-1,5-dioate | 16.1 mmol, 8.9 g | C(C1=CC=CC=C1)OC(=O)C(CP(=O)(OC(C)(C)C)CC(C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C)C | C29H47O8P
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Di-tert-butyl 2-[[[2-(carboxy)propyl]tert-butoxy-phosphinyl]methyl]pentanedioate | 7.5 g, 100% | C(=O)(O)C(CP(=O)(OC(C)(C)C)CC(C(=O)OC(C)(C)C)CCC(=O)OC(C)(C)C)C | C22H41O8P
